US07485634B2
Preparation of Ethyl 2-Ethylcarbamoyl-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino-[4,5-b]indole-5-carboxylate
The title compound was prepared in a manner similar to that described in Example 2A by using ethyl 2-ethylcarbamoyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate and 4-fluorobenzoyl chloride; 1H-NMR (CDCl3): δ 10.21 (1H, br s), 8.27 (1H, s), 7.71-7.79 (3H, m), 7.53 (1H, m), 7.36 (1H, d), 7.20 (1H, m), 7.11 (2H, m), 6.11 (1H, d), 5.32 (1H, t), 4.21 (2H, m), 3.87 (1H, dd), 3.20 (1H, dd), 2.86-3.06 (2H, m), 1.18(3H, t), 0.57 (3H, t); MS (ES): 450 (MH+).

reactant | ethyl 2-ethylcarbamoyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | C(C)NC(=O)C1CC2=C(NC=3C=CC=CC23)C(=CN1)C(=O)OCC | C18H21N3O3
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | Ethyl 2-Ethylcarbamoyl-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino-[4,5-b]indole-5-carboxylate | C(C)NC(=O)C1CC2=C(NC=3C=CC=CC23)C(=CN1C(C1=CC=C(C=C1)F)=O)C(=O)OCC | C25H24FN3O4
